US06875765B2
To a −78° C. solution of 1-naphthaldehyde (13.0 mL, 96.1 mmol) and ethyl chloroacetate (10.3 mL, 96.1 mmol) in tetrahydrofuran (900 mL) was added (1.0 M in tetrahydrofuran) sodium bis(trimethylsilyl)amide (96.1 ml, 96.1 mmol) dropwise. The reaction mixture was stirred at −78° C. for 30 minutes and then warmed to 0° C. The reaction was then quenched with water (200 mL). The reaction mixture was then diluted with ethyl acetate (800 mL). The organic reaction layer was then washed in succession with water and saturated sodium chloride, the organic layer was then dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield a pale oil. The crude residue was chromatographed (silica gel with 5% ethyl acetate-95% hexane) to give 3-naphthalen-1-yl-oxirane-2-carboxylic acid ethyl ester as a clear oil. 1H NMR(300 MHz, DMSO) 8.12 (d, 1H), 7.95 (m, 2H), 7.51 (m, 4H), 4.77 (d, 1H), 4.24 (q, 2H), 3.72 (d, 1H), 1.27 (t, 3H). MS(APCI) m/z 241.1 (M−H). Anal. Calcd. for C15H14O3: C, 74.36; H, 5.82. Found: C, 74.47; H, 5.87.

reactant | 1-naphthaldehyde | 96.1 mmol, 13.0 mL | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | ethyl chloroacetate | 96.1 mmol, 10.3 mL | ClCC(=O)OCC | C4H7ClO2
reactant | sodium bis(trimethylsilyl)amide | 96.1 mmol, 1.0 M, 96.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
product | 3-naphthalen-1-yl-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1OC1C1=CC=CC2=CC=CC=C12 | C15H14O3
